US07456164B2
N-ethyl-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)acetamide
Acetyl chloride (14 μL, 0.20 mmol) was added dropwise to a solution of N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)ethanamine (70 mg, 0.20 mmol) and triethylamine (28 μL, 0.20 mmol) in THF (0.50 mL) at 0° C. and the reaction stirred for 2 hours. The reaction was quenched using NaHCO3 (10 mL), extracted with dichloromethane (3×10 mL) and the organic extracts dried over Na2SO4, filtered and concentrated in vacuo. The compound was purified by column chromatography on silica, eluting with DCM/MeOH/NH3 (95:5:0.5) to provide the title compound as a clear oil (33 mg, 42%). 1H NMR complicated by the presence of rotamers. 1H NMR (400 MHz, CDCl3) δ 7.20-7.12 (m, 2H), 6.92-6.86 (m, 2H), 4.06-4.00 (m, 2H), 3.88-3.76 (m, 2H), 2.56-2.48 (m, 2H), 3.42 (s, 2H), 2.66 (t, 2H), 2.58-2.52 (m, 4H), 2.48 (quartet, 2H), 2.08 (s, 3H), 2.06-1.92 (m, 6H), 1.84-1.76 (m, 4H), 0.98 (t, 0.6H) 0.86 (t, 2.4H). HRMS (ESI+) 389.2799 (M+H)+.

reactant | Acetyl chloride | 0.20 mmol, 14 μL | C(C)(=O)Cl | C2H3ClO
reactant | N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)ethanamine | 0.20 mmol, 70 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CNCC | C21H34N2O2
reactant | triethylamine | 0.20 mmol, 28 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 0.50 mL | C1CCOC1 | C4H8O
product | N-ethyl-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)acetamide | 33 mg, 42% | C(C)N(C(C)=O)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C23H36N2O3
